US09302985B2
To a solution of 5-bromo-pyridine-2-sulfonyl chloride (330 mg, 1.29 mmol) in DCM (10 mL) was added pyridine (208 μL, 2.57 mmol) followed by a solution of (4-fluoro-phenyl)-isobutyl-amine (215 mg, 1.29 mmol) in DCM (10 mL) and the reaction was stirred at room temperature for 16 hours. Water and saturated aqueous NaHCO3 were added and then extracted with DCM, filtered through a phase separator, concentrated then purified by silica gel column chromatography (0-20% EtOAc in cyclohexane) to give 5-bromo-pyridine-2-sulfonic acid (4-fluoro-phenyl)-isobutyl-amide (414 mg, 78%). LCMS (m/z, Method A) ES+ 387/389 [M+1]+.

reactant | 5-bromo-pyridine-2-sulfonyl chloride | 1.29 mmol, 330 mg | BrC=1C=CC(=NC1)S(=O)(=O)Cl | C5H3BrClNO2S
reactant | pyridine | 2.57 mmol, 208 μL | N1=CC=CC=C1 | C5H5N
reactant | (4-fluoro-phenyl)-isobutyl-amine | 1.29 mmol, 215 mg | FC1=CC=C(C=C1)NCC(C)C | C10H14FN
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 5-bromo-pyridine-2-sulfonic acid (4-fluoro-phenyl)-isobutyl-amide | 414 mg, 78% | FC1=CC=C(C=C1)N(S(=O)(=O)C1=NC=C(C=C1)Br)CC(C)C | C15H16BrFN2O2S
